US04278673
(b) 6-(1-Butyramido)ethyl-3-methyl-1,2,4-triazin-5(4H)-one
To an ice-cold solution of acetamidine hydrochloride (66.2 g) in absolute ethanol (600 ml) was slowly added a solution of hydrazine hydrate (35 g) in absolute ethanol (20 ml) over 20 minutes. After completion of the addition stirring was continued at room temperature for 10 minutes. A solution of ethyl 3-butyramido-2-oxo-butyrate (151 g) in absolute ethanol (100 ml) was then added and the mixture heated at 65°-70° with stirring for 20 hours. The precipitated ammonium chloride was removed by filtration and the filtrate concentrated in vacuo whereupon the triazinone separated. Ethyl acetate (ca. 300 ml) was added to aid the precipitation and the solid was collected. The filtrate was concentrated to give a second crop which was combined with the first and recrystallised from ethanol, 28.6 g. A further recrystallisation from ethanol afforded an analytical sample, m.p. 235°-237°.

reactant | acetamidine hydrochloride | 66.2 g | Cl.C(C)(=N)N
reactant | hydrazine hydrate | 35 g | O.NN
reactant | ethyl 3-butyramido-2-oxo-butyrate | 151 g | C(CCC)(=O)NC(C(C(=O)OCC)=O)C | C10H17NO4
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(1-Butyramido)ethyl-3-methyl-1,2,4-triazin-5(4H)-one | C(CCC)(=O)NC(C)C=1C(NC(=NN1)C)=O | C10H16N4O2
